US07345087B2
(1R,2R)/(1S,2S)-2-(3-KETOPYRROLIDINYL)-1-(2,6-DICHLOROPHENETHOXY)CYCLOHEXANE MONOHYDROCHLORIDE (COMPARATIVE EXAMPLE COMPOUND 41)
(1R,2R)/(1S,2S)-2-[1,4-Dioxa-7-azaspiro[4.4]non-7-yl]-1-(2,6-dichlorophenethoxy)cyclohexane: The mesylate from (vi) in anhydrous ethylene glycol dimethyl ether (80 mL) was added quickly to the alkoxide mixture (viii) and the resulting mixture was readily refluxed for 66 hours. The cooled reaction mixture was poured into water (200 mL) and the organic solvent was evaporated in vacuo. The residual aqueous solution was diluted with more water to a volume of 700 mL, acidified to pH 0.5 with 6M HCl aqueous solution and extracted with diethyl ether (2×600 mL). The pH of the aqueous layer was adjusted to pH 5.9 and then the aqueous solution was extracted with diethyl ether (700 mL). The organic extract was dried over sodium sulfate and the solvent was evaporated in vacuo to yield 34.0 g of the title compound (70% yield).

reactant | (1S,2S)-2-[1,4-Dioxa-7-azaspiro[4.4]non-7-yl]-1-(2,6-dichlorophenethoxy)cyclohexane | O1CCOC12CN(CC2)[C@@H]2[C@H](CCCC2)OCCC2=C(C=CC=C2Cl)Cl | C20H27Cl2NO3
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | water | 200 mL | O | H2O
solvent | ethylene glycol dimethyl ether | 80 mL | COCCOC | C4H10O2
product | (1S,2S)-2-(3-KETOPYRROLIDINYL)-1-(2,6-DICHLOROPHENETHOXY)CYCLOHEXANE MONOHYDROCHLORIDE | 34.0 g, 70% yield | Cl.O=C1CN(CC1)[C@@H]1[C@H](CCCC1)OCCC1=C(C=CC=C1Cl)Cl | InChI=1S/C18H23Cl2NO2.ClH/c19-15-4-3-5-16(20)14(15)9-11-23-18-7-2-1-6-17(18)21-10-8-13(22)12-21;/h3-5,17-18H,1-2,6-12H2;1H/t17-,18-;/m0./s1
